US03947473
A solution of 304.4 g. (2.0 mol) of trimethylhydroquinone in 1.2 liters of methanol and 300 ml. of trimethyl orthoformate was degassed, placed under N2 and cooled in an ice bath to 3 degrees centigrade. To the flask was added 5.0 ml. of concentrated aqueous sulfuric acid followed, dropwise over 3.0 hours, by 340 ml. (about 4.0 mol) of methyl vinyl ketone. The suspension was stirred without cooling for 44 hours. The mixture was worked up by extracting with diethyl ether, and washing with water, and saturated aqueous sodium bicarbonate and dried over sodium sulfate. The solvent was removed on a rotary evaporator at 30° to 50°C. to give (±)-6-hydroxy- 2-methoxy-2,5,7,8-tetramethylchroman as a light tan solid.

reactant | trimethylhydroquinone | 2.0 mol | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | methyl vinyl ketone | about 4.0 mol | C(=C)C(=O)C | C4H6O
reactant | methanol | 1.2 liters | CO | CH4O
product | (±)-6-hydroxy- 2-methoxy-2,5,7,8-tetramethylchroman | OC=1C(=C2CCC(OC2=C(C1C)C)(C)OC)C | C14H20O3
